US07087626B2
7-(3-Chloro-propylsulfanyl)-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline
To a solution of Preparation #21, 3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ylsulfanyl]-propan-1-ol (25.0 mg, 0.062 mmol) in dry pyridine (0.1 mL) is added toluene sulfonyl chloride (60.0 mg, 0.31 mmol) and the resulting mixture stirred at room temperature for 72 h. Saturated sodium bicarbonate solution is added and the resulting solution extracted with ethyl acetate. The organic layer is washed with brine, dried (sodium sulfate), filtered, and concentrated in vacuo. Purification of the residue on SiO2 (5% to 10% methanol in dichloromethane) gives the desired product, 11.2 mg (43%). MS ES+ m/e 421.1 (M+1).

reactant | 3-[4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ylsulfanyl]-propan-1-ol | 0.062 mmol, 25.0 mg | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)SCCCO | C23H22N4OS
reactant | toluene sulfonyl chloride | 0.31 mmol, 60.0 mg | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | pyridine | 0.1 mL | N1=CC=CC=C1 | C5H5N
product | 7-(3-Chloro-propylsulfanyl)-4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinoline | ClCCCSC1=CC=C2C(=CC=NC2=C1)C1=C2N(N=C1C1=NC=CC=C1)CCC2 | C23H21ClN4S
